US06949542B2
[2-Amino-5-(tetrahydro-pyran-2-yloxymethyl)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-nitro-5-(tetrahydro-pyran-2-yloxymethyl)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester [prepared from (5-hydroxymethyl-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example A30) (476 mg, 1.42 mmol) by treatment with 3,4-dihydro-2H-pyran (0.19 mL, 2.12 mmol) and p-TsOH (5 mg, 0.03 mmol) in DCM at 0° C., stirring at 0° C. for 15 min and at 23° C. for 18 h.] (0.58 g, 1.38 mmol) reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as an amorphous yellow substance (414 mg, 77%).

reactant | [2-nitro-5-(tetrahydro-pyran-2-yloxymethyl)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 1.42 mmol, 0.19 mL, 476 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)COC1OCCCC1)C(F)(F)F)[N+](=O)[O-])=O | C18H23F3N2O6
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | [2-Amino-5-(tetrahydro-pyran-2-yloxymethyl)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)COC1OCCCC1)C(F)(F)F)N)=O | C18H25F3N2O4
